US08476286B2
Synthesis of 4-(4-isopropyl-phenyl)-1-[3-(2-methoxy-ethoxy)-benzyl]-6-prop-2-ynyloxy-1H-quinazolin-2-one
To a solution of 100 mg (0.236 mmol) of 1-(3-hydroxy-benzyl)-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one in anhydrous DMF (5 ml) is added NaH (11 mg, 0.471 mmol) and the solution is allowed to stir until evolution of gas ceases. 1-Bromo-2-methoxy-ethane (34 μl, 0.236 mmol) is added and the mixture is heated for 2 days at 60° C. After cooling to room temperature, the reaction mixture is quenched with water and the mixture is acidified to pH 3 with 10% citric acid. The mixture is extracted with ether (2×20 ml). The combined organic layers are washed with brine, dried (Na2SO4), filtered and evaporated in vacuo to provide a yellow solid which is purified by flash chromatography on silica gel using petroleum ether/ethyl acetate (9:1 to 1:1) to provide the title compound as a yellow oil. Yield:56 mg (49%).

reactant | 1-(3-hydroxy-benzyl)-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one | 0.236 mmol, 100 mg | OC=1C=C(CN2C(N=C(C3=CC(=CC=C23)OCC#C)C2=CC=C(C=C2)C(C)C)=O)C=CC1 | C27H24N2O3
reactant | NaH | 0.471 mmol, 11 mg | [H-].[Na+]
reactant | 1-Bromo-2-methoxy-ethane | 0.236 mmol, 34 μl | BrCCOC | C3H7BrO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(4-isopropyl-phenyl)-1-[3-(2-methoxy-ethoxy)-benzyl]-6-prop-2-ynyloxy-1H-quinazolin-2-one | C(C)(C)C1=CC=C(C=C1)C1=NC(N(C2=CC=C(C=C12)OCC#C)CC1=CC(=CC=C1)OCCOC)=O | C30H30N2O4
